US08258141B2
M2: {(R)-1-[9-((3aS,4R,6S,6aR)-2,2-Dimethyl-6-propionylamino-tetrahydro-cyclopenta[1,3]dioxol-4-yl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester
A solution of {(R)-1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester (0.63 g, 0.89 mmol) in acetone (10 ml) and 2,2-dimethyloxypropane (5 ml) is treated with toluenesulfonic acid (ca. 60 mg) and then stirred at room temperature overnight. The mixture is basified using ammonium hydroxide and the solvent is removed in vacuo. The crude product is partitioned between DCM and water and the organic portion is washed with brine, dried over MgSO4, filtered and the solvent is removed in vacuo to give the title compound. [MH+ 745].

reactant | {(R)-1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester | 0.89 mmol, 0.63 g | C(C1=CC=CC=C1)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H44N8O5
reactant | toluenesulfonic acid | ca. 60 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | 2,2-dimethyloxypropane | 5 ml | COC(C)(C)OC | C5H12O2
product | {(R)-1-[9-((3aS,4R,6S,6aR)-2,2-Dimethyl-6-propionylamino-tetrahydro-cyclopenta[1,3]dioxol-4-yl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)NC(CC)=O)NCC(C2=CC=CC=C2)C2=CC=CC=C2)=O | C42H48N8O5
